US05216007
A. Preparation of 2,2-Bis(p-chlorophenyl)-1-chloroethylene
Into a 4-necked 2-liter flask are placed 500 g (1.56 mole) of 2,2-bis(p-chlorophenyl)-1,1-dichloroethane and 500 ml of dimethyl sulfoxide. A solution of 188 ml (2.34 mole) of 50% sodium hydroxide is added dropwise. The reaction mixture exotherms to 63° during the addition. After the addition, the reaction mixture is stirred for one hour and poured into ice-water. It is extracted with ether. The combined ether extracts are washed with water, saturated sodium chloride solution, and dried over sodium sulfate. Solvent is evaporated to give 311 g of a waxy solid. A portion of the crude product is recrystalized from hexane-ether to give a white solid, mp 65°-7°.

reactant | 2,2-bis(p-chlorophenyl)-1,1-dichloroethane | 1.56 mole, 500 g | ClC1=CC=C(C=C1)C(C(Cl)Cl)C1=CC=C(C=C1)Cl | C14H10Cl4
reactant | sodium hydroxide | 2.34 mole, 188 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
product | 2,2-Bis(p-chlorophenyl)-1-chloroethylene | ClC1=CC=C(C=C1)C(=CCl)C1=CC=C(C=C1)Cl | C14H9Cl3
